US05574159
1-((3-Fluoroanilino)methyl)-1H-benzotriazole (173.9 g) was slurried in dry tetrahydrofuran. Sodium borohydride (32.5 g) was added portionwise to the mixture at room temperature. After addition was complete, the mixture was heated at reflux for 4 hours. The solution was cooled and poured slowly into 400 mL of 5M hydrochloric acid with ice and stirred for 1 hour at room temperature. The solution pH was adjusted to 9-10 using 10M sodium hdyroxide solution. The product was extracted using diethyl ether. The ether extracts were washed successively with 1M sodium hydroxide solution, saturated sodium chloride solution, and water. The organic phase was dried over sodium sulfate and evaporated under reduced pressure to yield 87.5 g (97%) of 3-fluoro-N-methylaniline as a colorless oil. [NMR (200 MHz, DMSO-d6): 67 2.76 (s, 3H); 3.41 (br s, 1H); 6.59-6.92 (m, 3H); 7.27 (q, J=8.0 Hz, 1H)].

reactant | 1-((3-Fluoroanilino)methyl)-1H-benzotriazole | 173.9 g | FC=1C=C(NCN2N=NC3=C2C=CC=C3)C=CC1 | C13H11FN4
reactant | Sodium borohydride | 32.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | 5M, 400 mL | Cl | ClH
reactant | sodium | 10M | [Na] | Na
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-fluoro-N-methylaniline | 87.5 g, 97% | FC=1C=C(NC)C=CC1 | C7H8FN
